US08084623B2
A mixture of (R)-2-benzyl-pyrrolidine-2-carboxylic acid (2.07 g, 10.1 mmol) and tetramethylammonium hydroxide pentahydrate (1.83 g, 10.1 mmol) in acetonitrile (100 mL) was stirred under nitrogen for 90 minutes, then (Boc)2O (3.31 g, 15.2 mmol) was added. After 48 hours a second portion of (Boc)2O (1.10 g, 5.0 mmol) was added. After 24 hours the reaction mixture was concentrated in vacuo, then partitioned between ether (100 mL) and water (50 mL). The aqueous phase was washed with ether (50 mL) then acidified to pH 4 with 10% aqueous citric acid (20 mL). The resultant solution was extracted with EtOAc and the combined extracts were washed with brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo to yield (R)-2-benzyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.26 g, 4.13 mmol, 41%) as a foam.

reactant | (R)-2-benzyl-pyrrolidine-2-carboxylic acid | 10.1 mmol, 2.07 g | C(C1=CC=CC=C1)[C@@]1(NCCC1)C(=O)O | C12H15NO2
reactant | tetramethylammonium hydroxide pentahydrate | 10.1 mmol, 1.83 g | O.O.O.O.O.[OH-].C[N+](C)(C)C
reactant | (Boc)2O | 15.2 mmol, 3.31 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (Boc)2O | 5.0 mmol, 1.10 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (R)-2-benzyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 4.13 mmol, 1.26 g, 41% | C(C)(C)(C)OC(=O)N1[C@@](CCC1)(C(=O)O)CC1=CC=CC=C1 | C17H23NO4
